US06800651B2
4-(4-Benzyloxyphenoxy)aniline
A mechanically-stirred solution of 4-(4-benzyloxyphenoxy)-1-nitrobenzene (5.6 g, 17 mmol) in absolute ethanol (50 ml) was treated with concentrated hydrochloric acid (6 ml). The solution was warmed to 55-60° C. under a nitrogen cover. Iron powder (6.5 g, 115 mmol) was added in several portions. A mild exotherm (while still being heated) brought the reaction temperature to 68° C. After completing the iron addition the reaction temperature was brought to 70° C. and maintained at that temperature for 1.5 hours. The mixture was then cooled to room temperature and filtered through a pad of Celite®. The filter cake was washed with ethanol (100 ml) and methylene chloride (50 ml), and the filtrate partitioned between methylene chloride and 1M potassium carbonate. The green aqueous layer was extracted a second time with methylene chloride and then dried over anhydrous magnesium sulfate. Filtration and concentration in vacuo afforded crude product (5.4 g), contaminated with unreacted starting material. Silica gel chromatography (Waters® LC2000 with 2 PrePak® columns, eluting with methylene chloride) provided the title compound (3.75 g, 76%), as well as unreacted starting material (1.2 g). 1H NMR(400 MHz): 3.53(2H,br s), 5.02(2H,s), 6.62-6.67(2H,m), 6.79-6.84(2H,m), 6.86-6.93(4H,m), 7.29-7.44(5H,m); MS(ESI)m/z 291.9([M+H]+,100).

reactant | 4-(4-benzyloxyphenoxy)-1-nitrobenzene | 17 mmol, 5.6 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C19H15NO4
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Iron | 115 mmol, 6.5 g | [Fe] | Fe
product | 4-(4-Benzyloxyphenoxy)aniline | 3.75 g, 76% | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C19H17NO2
